Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Morphine
 
Attending: ___.
 
Chief Complaint:
Melena
 
Major Surgical or Invasive Procedure:
Upper endoscopy
 
History of Present Illness:
___ yo M with Crohn's disease on prednisone and Remicade (last 
infusion ___ who presented to the ED after having had 2 
episodes of melena at home around 7:30am.  Has had no BM since 
he arrived to the ED. Recent admission in ___ for partial SBO. 


ED Course: Vitals on presentation T 97.9 HR 106 BP 138/82 
100%RA. He was given IVF and a one time bolus of Protonix 80 mg 
IV. 2 18GPIV were placed. He was admitted to the ICU for further 
monitoring and likely EGD today with GI. 

Upon arrival to the ICU, pt was hemodynamically stable and had 
no complaints. He reported that he has been doing quite well in 
regards to his Crohn's disease since starting on Remicade. He 
reports some epigastric discomfort and bloating that began on 
___. He thought it may be related to food consumption. He 
explains that this began to resolve and then noted the two BMs 
of melena this AM. He called his GI doctor who advised him to be 
evaluated in the ED. Denies F/C. Denies hematochezia or 
hematemesis. Denies urinary symptoms. Admits to diffuse, crampy 
lower abdominal pain. 
 
Past Medical History:
1. Crohn's disease - dx in ___, recently started on Remicade, 
last infusion ___. Had small bowel resection x 2 and 
stricturoplasty in the past as well. He then had fistulas 
repaired. Hospital admission ___ to ___ for a duodenal 
bleed secondary to a Crohns flare. During this adm he received 
his first dose of Remicade. One day admit ___ for n/v 
and perianal abcess which has been healing and was treated with 
a course of levofloxacin and Flagyl. He is now s/p 3 infusions 
of Remicade.

2. Vitamin B12 deficiency, only on MVI currently.

 
Social History:
___
Family History:
Father- irritable bowel disease.
Father's family has heart disease.
Mother's family had lung cancer, breast cancer.
 
Physical Exam:
On Presentation:

VS: T 97.9 HR 106 BP 138/82 100%RA
General Appearance: Well nourished, No acute distress
Eyes / Conjunctiva: PERRL
Head, Ears, Nose, Throat: Normocephalic
Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
Peripheral Vascular: (Right radial pulse: Present), (Left radial 
pulse: Present), (Right DP pulse: Present), (Left DP pulse: 
Present)
Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: 
Clear : )
Abdominal: Soft, Tender: Lower quadrants
Extremities: No edema
Skin:  Warm
Neurologic: Attentive, Follows simple commands, Responds to: Not 
assessed, Movement: Not assessed, Tone: Not assessed

 
Pertinent Results:
___ 10:10AM   GLUCOSE-91 UREA N-14 CREAT-0.7 SODIUM-139 
POTASSIUM-3.7 CHLORIDE-103 TOTAL CO2-32 ANION GAP-8
___ 10:10AM   WBC-10.4 RBC-3.86* HGB-9.2* HCT-28.8* 
MCV-75*# MCH-23.7*# MCHC-31.8 RDW-15.5
___ 10:10AM   NEUTS-74.8* BANDS-0 LYMPHS-16.8* MONOS-7.3 
EOS-0.9 BASOS-0.1
___ 10:10AM   HYPOCHROM-1+ ANISOCYT-1+ POIKILOCY-NORMAL 
MACROCYT-NORMAL MICROCYT-2+ POLYCHROM-NORMAL TARGET-OCCASIONAL
___ 10:10AM   ___ PTT-27.5 ___
___ 01:49PM   HCT-25.8*
___ 12:01PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG

U/A: Negative

IMAGING/Studies:
EGD (___): 
Esophageal candidiasis
Normal duodenal mucosa. Improved previously seen duodenal 
ulcers. No signs of erosions or bleeding.
Otherwise normal EGD to second part of the duodenum
 
Brief Hospital Course:
___ yo M with Crohn's disease on prednisone and Remicade who 
presents with 2 episodes of melena.  EGD showed no cause of 
bleed.  Hct stabilized for 25 hours and patient was discharged 
home in stable condition.  He has GI follow up on ___.

# UGI Bleed:  The patient has a known history of Crohn's 
Disease.  His baseline Hct is in the high 20's to low 30's and 
on admission his Hct was 28.8.  A repeat Hct later in the day of 
admission showed that it had dropped to 25.8 after IVF.  He was 
bolused with protonix in ED and started on a PPI IV bid. INR 
1.1. The most likely etiology ___ to IBD, however an EGD was 
performed to rule out an upper GI.  The EGD showed no ulcers or 
other cause of bleeding.  His Hct was followed and was stable at 
25 and rose to 27 the day of discharge. Patient will schedule MR 
enterography for next week and has follow up appointment with 
Dr. ___ on ___.

# Crohn's Disease: As above for GIB.  EGD as above.  Continued 
on home mesalamine and prednisone.  Started on calcium and 
vitamin D give prolonged steroid use.  Also ___ bactrim 
prophylaxis given steroid use. 

# Esophageal candidiasis: The patient was seen to have 
candidiasis on his EGD and was started on fluconazole.  He will 
complete a ___s an outpatient.

# Code: FULL

 
Medications on Admission:
Pentasa 2 g PO BID
Percocet ___ TAB Q4-6H PRN pain
Prednisone 25 mg PO daily
Ensure daily
MVI

 
Discharge Medications:
1. Prednisone 50 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  
2. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. Pentasa 500 mg Capsule, Sustained Release Sig: Four (4) 
Capsule, Sustained Release PO twice a day.  
4. Fluconazole 200 mg Tablet Sig: One (1) Tablet PO Q24H (every 
24 hours) for 9 days.
Disp:*9 Tablet(s)* Refills:*0*
5. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO twice a day.
Disp:*60 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
6. Trimethoprim-Sulfamethoxazole 160-800 mg Tablet Sig: One (1) 
Tablet PO QMOWEFR (___).
Disp:*12 Tablet(s)* Refills:*2*
7. Percocet ___ mg Tablet Sig: ___ Tablets PO every ___ hours 
as needed for pain.
Disp:*50 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary - 
Upper gastrointestinal bleed 
Esophageal candidiasis 
 
Secondary - 
Crohn's Disease 

 
Discharge Condition:
Stable, with no signs of active bleeding.

 
Discharge Instructions:
You were admitted to the hospital with two episodes of dark 
stools concerning for gastrointestinal bleeding.  You were 
admitted to the Intensive Care Unit where you underwent an upper 
endoscopy which saw infection of your esophagus by ___, but 
no cause for your bleed.  You were started on fluconazole for 
treatment of the ___ and ___ need to finish a course of 
treatment as an outpatient.  Your bleed was likely from Crohn's 
Disease.

Medication Chagnes:
1.  You will need to take 9 more days of 200 mg of fluconazole 
daily to treat the ___ infection of your esophagus.
2.  You were started on pantoprazole 40 mg bid for ulcer 
prophylaxis while on steroids.

No changes were made to your outpatient medications.  Continue 
to take them as prescribed.  You should also take a calcium and 
vitamin D supplementation daily, in addition to your 
multivitamin.  Please discuss having a Bone Mineral Density scan 
with your primary care doctor, as being on long term steroids 
(prednisone) can lead to early osteoporosis.

Go to the emergency room or call your primary doctor if you 
experience fevers, chills, shortness of breath, dizziness, blood 
in your stool, dark black stool, or inability to tolerate oral 
intake.
 
Followup Instructions:
___